US06476053B1
1-Nonylpiperidine-2,6-dione
The procedure of Example 1 was repeated except that glutarimide replaced the succinimide.

reactant | glutarimide | C1(CCCC(N1)=O)=O | C5H7NO2
reactant | succinimide | C1(CCC(N1)=O)=O | C4H5NO2
product | 1-Nonylpiperidine-2,6-dione | C(CCCCCCCC)N1C(CCCC1=O)=O | C14H25NO2
